US04000327
PREPARATION OF ETHYL-2-METHYL-3,4-PENTADIENOATE
The autoclave is closed and the reaction mass is heated to 150° C. over a period of 50 minutes. The reaction mass is then maintained at a temperature of between 135°-160° C and at a pressure of 20 up to 60 psig for a period of 3 hours. At the end of this 3-hour period, the autoclave is cooled to room temperature and then opened. 12.6 g of sodium bicarbonate is then added to the reaction mass in order to neutralize the propionic acid. 30 g of Primol (see note 1) and 0.1 g of Ionol (see note 2) are added and the resulting reaction product is fractionally distilled at atmospheric pressure to a pot temperature of 129° C. A mixture of ethanol and ethyl propionate is distilled over. Vacuum is then applied to the distillation column and the resultant product, ethyl-2-methyl-3,4-pentadienoate is distilled at a vapor temperature of 65°-69° C at a pressure of 24-33 mm Hg as fractions 5-10 of the following fractions:

reactant | sodium bicarbonate | 12.6 g | C([O-])(O)=O.[Na+]
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | Ionol | 0.1 g | CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H24O
product | ETHYL-2-METHYL-3,4-PENTADIENOATE | C(C)OC(C(C=C=C)C)=O | C8H12O2
